### ISSUE TITLE
Erdős 124: missing summability hypothesis and docstring mismatch in melfi_construction

### ISSUE THREAD

**Issue by FredRaj3** [google-deepmind/formal-conjectures#5536]
### Describe the misformalization
In Erdos 124, there are is a missing hypothesis that allows for a "proof" via junk values.
- The real-valued tsum bound does not require the reciprocal series to converge

Also there is a mismatch in the docstring and statement
- StrictMono d does not imply the docstring’s requirement 2 ≤ d 0

[Permalink](https://github.com/google-deepmind/formal-conjectures/blob/e99b54b6d8084a8df4e889c8023b1270a0f3e683/FormalConjectures/ErdosProblems/124.lean#L99-L104)

### Trivial proof/disproof
```
@[category research solved, AMS 11]
lemma erdos124.melfi_construction {ε : ℝ} (hε : 0 < ε) :
    ∃ d : ℕ → ℕ, StrictMono d ∧ ∑' i, (d i - 1 : ℝ)⁻¹ ≤ ε ∧ ∀ᶠ n in atTop,
      ∃ (I : Finset ℕ) (a : ℕ → ℕ), (∀ i ∈ I, a i ∈ sumsOfDistinctPowers (d i) 0) ∧
        ∑ i ∈ I, a i = n := by
  -- Junk-value loophole: with `d i = i + 2` the series `∑ (d i - 1)⁻¹ = ∑ (i + 1)⁻¹`
  -- diverges, so `tsum` returns `0 ≤ ε`; and every `n` is a sum of distinct powers of
  -- `d 0 = 2`. Melfi's construction is not needed.
  refine ⟨fun i => i + 2, fun _ _ hab => Nat.add_lt_add_right hab 2, ?_, ?_⟩
  · have h : ¬ Summable (fun i : ℕ => ((i + 2 : ℕ) - 1 : ℝ)⁻¹) := by
      have h' : (fun i : ℕ => ((i + 2 : ℕ) - 1 : ℝ)⁻¹) =
          fun i : ℕ => ((i + 1 : ℕ) : ℝ)⁻¹ := by
        funext i
        push_cast
        ring
      rw [h']
      intro hs
      exact Real.not_summable_natCast_inv
        ((summable_nat_add_iff (f := fun n : ℕ => (n : ℝ)⁻¹) 1).mp hs)
    rw [tsum_eq_zero_of_not_summable h]
    exact hε.le
  · refine Eventually.of_forall fun n => ⟨{0}, fun _ => n, ?_, by simp⟩
    intro i hi
    rw [Finset.mem_singleton] at hi
    subst hi
    exact ⟨n.bitIndices.toFinset, fun _ _ => Nat.zero_le _,
      Finset.sum_toFinset_bitIndices_two_pow n⟩
```

### Suggested fix
Add hypotheses `2 ≤ d 0` and  `Summable (fun i : ℕ ↦ (d i - 1 : ℝ)⁻¹)`

### Additional context
Found by a junk value audit of the repository. Also found in the fc-review audit: https://tadamcz.com/fc-review-results/#/f/ErdosProblems/124

### Choose either option
- [x] I plan on working on this issue
